US03946111
1,2-Dihydro-9-hydroxy-2-methyl-7-(3-methyl-2-octyl)-4-oxo4H-thieno-[2,3-c][1] benzopyran
To 45 ml. of ethanol was added 8.8 g. of crude ethyl 5-methyl-3-oxo-tetrahydrothiophene-2-carboxylate and 5 g. of 5-(3-methyl-2-octyl) resorcinol. The mixture was cooled in ice and hydrogen chloride was bubbled in for onehalf hour. The mixture was stoppered and let stand at room temperature for 3 days. The reaction mixture was concentrated and dissolved in ether. The ether solution was extracted twice with water and once with aqueous sodium bicarbonate solution. The solution was dried over magnesium sulfate and concentrated. The product was crystallized from acetonitrile to give 4.65 g., m.p. 146°-149°C.

reactant | ethyl 5-methyl-3-oxo-tetrahydrothiophene-2-carboxylate | CC1CC(C(S1)C(=O)OCC)=O | C8H12O3S
reactant | 5-(3-methyl-2-octyl) resorcinol | CC(C(C)C=1C=C(C=C(O)C1)O)CCCCC | C15H24O2
solvent | ethanol | C(C)O | C2H6O
product | 1,2-Dihydro-9-hydroxy-2-methyl-7-(3-methyl-2-octyl)-4-oxo4H-thieno-[2,3-c][1] benzopyran | OC1=CC(=CC2=C1C1=C(C(O2)=O)SC(C1)C)C(C)C(CCCCC)C | C21H28O3S
